US05104884
4-(1H-1,2,4-triazole-1-yl)-2,8-bis-trifluoromethyl-quinoline
A mixture of 3.0 g of 4-chloro-2,8-bis-trifluoromethyl-quinoline, 1.38 g of 1,2,4-triazole, 1.38 g of potassium carbonate and 30 ml of acetone is heated to boiling for 23 hours whereupon the reaction mixture is poured into 100 ml of water. The precipitated product is filtered, dissolved in 5 ml of ethanol, whereupon 5 ml of water are added. The precipitated product is filtered. Thus 2.42 g of the desired compound are obtained, yield: 73%, mp.: 106°-107° C.

reactant | 4-chloro-2,8-bis-trifluoromethyl-quinoline | 3.0 g | ClC1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C11H4ClF6N
reactant | 1,2,4-triazole | 1.38 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 4-(1H-1,2,4-triazole-1-yl)-2,8-bis-trifluoromethyl-quinoline | 2.42 g, yield: 73% | N1(N=CN=C1)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C13H6F6N4
